US09145392B2
Step 1: 4-[4-(4-Fluoro-3-methyl-phenyl)-1-(2-hydroxy-ethyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-[4-Bromo-1-(2-hydroxy-ethyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (2000.00 mg; 5.34 mmol; 1.00 eq.), 2-(4-fluoro-3-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (1233.97 mg; 8.02 mmol; 1.50 eq.), mg; 0.53 mmol; 0.10 eq.) and Cs2CO3 (3483 mg, 10.69 mmol) in dioxane 15 ml and water 1.5 ml was purged with argon, added Pd(0)(tBu3)2 (273 mg, 0.53 mmol), stirred at 50° C. for overnight. LC-MS showed desired as major product. Diluted reaction solution with EA 70 ml, washed with brine 30mIX2, separated out organic layer, dried, removed off solvent, got crude product, which was subjected to biotage NASP column (100 g), elated with 40-100% EA in hexane and contained 0.5% TEA in EA, collected title compound 1650 mg, 76%

reactant | 4-[4-Bromo-1-(2-hydroxy-ethyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 5.34 mmol, 2000.00 mg, 1.00 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1N(C=C(N1)Br)CCO | C15H24BrN3O3
reactant | 2-(4-fluoro-3-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 8.02 mmol, 1233.97 mg, 1.50 eq. | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(F)(F)F | C13H15BF4O2
reactant | Cs2CO3 | 10.69 mmol, 3483 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | EA | 70 ml | CC(OCC)=O | C4H8O2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.5 ml | O | H2O
product | 4-[4-(4-Fluoro-3-methyl-phenyl)-1-(2-hydroxy-ethyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCO | C22H30FN3O3
